US06992087B2
Preparation of trans-(+/−)-N-[4-ethoxytetrahydrofuran-3-yl]-3,6-diethyl-5-(4-methoxy-2-methylphenyl)pyrazin-2-amine
Following the procedure for the preparation of 5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine but substituting trans-(+/−)-4-{[3,6-diethyl-5-(4-methoxy-2-methylphenyl)pyrazin-2-yl]amino}tetrahydrofuran-3-ol and making non-critical variations provided the title compound as a light yellow solid. IR (diffuse reflectance) 3354, 2973, 2958, 2938, 1484, 1462, 1446, 1396, 1300, 1239, 1172, 1072, 1050, 1043, 885 cm−1; OAMS supporting ions at: ESI+ 386.1; MS (EI) m/z 385 (M+); HRMS (FAB) calcd for C22H31N3O3 +H1 386.2443, found 386.2438. Anal. Calcd for C22H31N3O3: C, 68.54; H, 8.11; N, 10.90. Found: C, 68.38; H, 7.99; N, 10.85.

reactant | 5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)OCC)CC | C25H27Cl2N3O
reactant | trans-(+/−)-4-{[3,6-diethyl-5-(4-methoxy-2-methylphenyl)pyrazin-2-yl]amino}tetrahydrofuran-3-ol | C(C)C=1C(=NC(=C(N1)C1=C(C=C(C=C1)OC)C)CC)N[C@H]1[C@@H](COC1)O | C20H27N3O3
product | trans-(+/−)-N-[4-ethoxytetrahydrofuran-3-yl]-3,6-diethyl-5-(4-methoxy-2-methylphenyl)pyrazin-2-amine | C(C)O[C@H]1[C@@H](COC1)NC1=NC(=C(N=C1CC)C1=C(C=C(C=C1)OC)C)CC | C22H31N3O3
